US07241798B2
Racemic, one enantiomer being ((1S,2S)-2-Phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester
To a flame dried 250 mL rbf equipped with a dry ice condenser was added fresh sodium metal (0.32 g, 14 mmol). The flask was immersed in a −78° C. bath and ammonia gas was condensed into the flask (˜30 mL). Racemic Intermediate 47, one enantiomer being [(1S,2S)-2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-carbamic acid tert-butyl ester (3.0 g, 7.0 mmol) in THF (7 mL, 2 mL rinse) was added to the flask in a fast dropwise fashion and the thick mixture was stirred for 5 minutes at which point tic indicated the reaction was complete. The reaction was warmed to room temperature and volatile solvents allowed to evaporate. The residue was partitioned between H2O and methylene chloride, the organics were washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound as a foam (1.9 g, quantitative yield).

reactant | sodium | 14 mmol, 0.32 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | [(1S,2S)-2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-carbamic acid tert-butyl ester | 7.0 mmol, 3.0 g | C(C)(C)(C)OC(N[C@@]12[C@@H](N(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C23H28N2O4S
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | ((1S,2S)-2-Phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester | 1.9 g, quantitative yield | C(C)(C)(C)OC(N[C@@]12[C@@H](NCC2C1)C1=CC=CC=C1)=O | C16H22N2O2
